US07727985B2
Methanol (0.462 ml, 11.4 mmol) was added to a stirring suspension of NaH (684 mg, 17.1 mmol) in DMF (10 ml) under an argon atmosphere. The resulting solution was allowed to stir at RT for 20 min. 6-chloro-7-fluoro-8-nitro-9H-β-carboline (500 mg, 1.9 mmol) was added to the stirring solution and the resulting mixture was allowed to stir at RT. Upon addition of H2O, a brown solid precipitated out which was filtered to give the desired 6-chloro-7-methoxy-8-nitro-9H-β-carboline (510 mg, 97% yield).

reactant | Methanol | 11.4 mmol, 0.462 ml | CO | CH4O
reactant | NaH | 17.1 mmol, 684 mg | [H-].[Na+]
reactant | 6-chloro-7-fluoro-8-nitro-9H-β-carboline | 1.9 mmol, 500 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1F)[N+](=O)[O-] | C11H5ClFN3O2
reactant | H2O | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-chloro-7-methoxy-8-nitro-9H-β-carboline | 510 mg, 97% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1OC)[N+](=O)[O-] | C12H8ClN3O3
